US07317037B2
7′-Fluorospiro[cyclopropane-1,3′-indol]-2′(1′H)-one (0.54 g, 3.05 mmol) was dissolved in 20 mL of CH2Cl2 and sodium acetate (0.28 g, 3.36 mmol) was added followed by bromine (0.173 mL, 3.36 mmol). The mixture was stirred at 25° C. for 16 h then diluted with ether and washed with Na2S3O3, sodium bicarbonate, water, brine, dried over MgSO4, and concentrated. Purification by flash chromatography (15% acetone/hexane) afforded 5′-Bromo-7′-fluorospiro[cyclopropane-1,3′-indol]-2′(1′H)-one (0.64 g, 82%) as a white solid:

reactant | 7′-Fluorospiro[cyclopropane-1,3′-indol]-2′(1′H)-one | 3.05 mmol, 0.54 g | FC=1C=CC=C2C3(C(NC12)=O)CC3 | C10H8FNO
reactant | sodium acetate | 3.36 mmol, 0.28 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 3.36 mmol, 0.173 mL | BrBr | Br2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 5′-Bromo-7′-fluorospiro[cyclopropane-1,3′-indol]-2′(1′H)-one | 0.64 g, 82% | BrC=1C=C2C3(C(NC2=C(C1)F)=O)CC3 | C10H7BrFNO
